Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
cephalexin
 
Attending: ___.
 
Chief Complaint:
Black Stool
Bloating and abdominal distension
 
Major Surgical or Invasive Procedure:
Endoscopy w/ biopsy esophageal mass (___) 
___ Guided Biopsy of Liver Mass (___)

 
History of Present Illness:
___ year old man with unremarkable past medical history presents 
with 2 months of abdominal bloating, 10 days dark stool found to 
have gastric/esophageal mass a/w adenoapthy and likely liver 
metastases on CT performed ___, transferred to ___ for 
additional management.

For the past 2 months he has had abdominal bloating. For the 
past 10 days he has had a history of dark stool which is almost 
black. He has epigastric discomfort with eating. Also apparently 
he has lost about 20 pounds over the past 2 months with poor 
oral intake. He presented to ___ emergency department after 
being referred in for admission by his primary care physician. 
CT there demonstrated liver metastasis with possible gastric 
source. Guaiac negative stool at OSH, stable vital signs and 
H/H, patient was transferred to ___ for expedited work-up.

In the ED, initial VS were: T: 97.9 HR: 76 BP: 155/81 RR: 20 
SO2: 97% RA
Exam notable for:  moist mucosa, mild abdominal distention with 
no tenderness to palpation
On arrival to the floor, patient confirms history as above.  
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI  

 
Past Medical History:
Acid Reflux
 
Social History:
___
Family History:
Unknown history of GI malignancy. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 0618 T 98.3, BP 130/79, HR 79, RR 20, O2Sat95 
GENERAL: Alert and oriented x3, NAD, mild resting tremor
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: slightly distended, mild epigastric tenderness, no 
rebound/guarding, coarse liver edge 8cm MCL by scratch palpable 
1 finger breadth below costal margin, negative ___, spleen 
palpable 1 finger breadth below costal margin 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM: 
Vitals: 0732 T 98.0, BP 112/65, HR 70, RR 18, O2 94
GENERAL: Alert and oriented x3, NAD, low mood, resting tremor 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: slightly distended, mild epigastric tenderness, no
rebound/guarding, coarse liver edge 8cm MCL by scratch palpable 
1 finger breadth below costal margin, incision from ___ guided 
biopsy is c/d/i, non-tender. 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS:
==============
___ 04:40AM   WBC-7.5 RBC-4.47* HGB-13.5* HCT-40.2 MCV-90 
MCH-30.2 MCHC-33.6 RDW-12.1 RDWSD-39.4
___ 04:40AM   NEUTS-69.9 LYMPHS-17.5* MONOS-9.1 EOS-2.0 
BASOS-1.1* IM ___ AbsNeut-5.22 AbsLymp-1.31 AbsMono-0.68 
AbsEos-0.15 AbsBaso-0.08
___ 04:40AM   ___ PTT-29.8 ___
___ 04:40AM   GLUCOSE-77 UREA N-16 CREAT-1.0 SODIUM-140 
POTASSIUM-4.8 CHLORIDE-100 TOTAL CO2-21* ANION GAP-19*

DISCHARGE LABS:
==============
___ 06:33AM BLOOD WBC-6.0 RBC-4.19* Hgb-12.7* Hct-37.5* 
MCV-90 MCH-30.3 MCHC-33.9 RDW-12.2 RDWSD-39.8 Plt ___
___ 06:33AM BLOOD Glucose-92 UreaN-18 Creat-1.0 Na-143 
K-4.5 Cl-106 HCO3-24 AnGap-13

STUDIES/REPORTS:
===============
___ BIMILTON ABD U/S
The liver shows normal size. Right lobe contains echogenic 16 x 
11 mm
hemangioma above a large right renal cyst. There are several 
solid
hypoechoic circumscribed lesions in the liver, suspicious for
metastases. Largest near gallbladder in segment ___ of 2.6 x 2.3 
cm.
The intra and extrahepatic bile ducts are normal. Color flow is
detected in the main portal vein, directed towards the liver.  
Common
bile duct is 2.8 mm. Spleen shows normal size and echotexture. 
No
upper abdominal ascites or adenopathy. Gall bladder is normal, 
without
stones, distention, wall thickening, tenderness, or polyp.
 
Right kidney is 11.6 cm and the left kidney 9.9 cm. Renal 
parenchymal
echotexture and thickness are within normal limits. No stone, 
solid
mass, or hydronephrosis. Upper pole right kidney contains large
thin-walled simple cyst, of 10 x 7.4 x 7.2 cm. Left mid kidney
medially contains simple 1.8 cm cyst. No perinephric 
abnormality.
 
Gas limited the midline assessment. The visualized aorta shows 
normal
caliber and contour. Inferior vena cava is normal. The 
visualized
pancreas shows normal thickness and echotexture.
 
Conclusion:
Hemangioma in right lobe of liver. At least 3 solid-appearing
hypoechoic lesions, largest 2.6 cm, suspicious for liver 
metastases .
Primary source not identified. Simple renal cysts. No 
gallstones.
Limited midline view of retroperitoneal due to epigastric gas.
Otherwise, Normal ultrasound survey of upper abdomen and 
retroperitoneum.

___HEST/ABD/PELVIS W/ IV CON
FINDINGS:
4 mm noncalcified nodule right lower lobe adjacent to the major
fissure on scan image #116. 4 mm noncalcified right lower lobe 
nodule seen on scan image #35 of 116. No pleural fluid.
 
Within the liver there are multiple low densities consistent 
with
metastatic disease. Largest is the inferior right lobe measuring 
about
2.8 cm. Portal vein is patent. Abnormal thickening of the distal 
esophagus and soft tissue mass inthe fundus of the stomach 
gastric primary is highly suspicious. Abnormal node under the 
crus of the right hemidiaphragm. Periportal adenopathy 
perigastric adenopathy retroperitoneal adenopathy surrounding 
the SMA and extending around the left renal artery and vein.
 
Spleen, gallbladder, pancreas, adrenal glands and kidneys are
unremarkable except for bilateral renal cyst largest exophytic 
on the
right measuring about 8.3 cm.
 
Moderate dense calcification of the abdominal aorta and iliac 
vessels.
No aneurysm.
 
There are colonic diverticula without evidence of 
diverticulitis. No
large or small bowel obstruction. No ascites or free air. 
Incidental
small fat-containing periumbilical hernia.
 
Within the base of the bladder there is a hypervascular high 
density
nodule. Cystoscopy is needed to evaluate for potential 
concomitant
bladder malignancy. Prostate gland is normal size and has 
multiple
calcifications.
 
Bone windows show degenerative changes thoracic and lumbar spine
multiple levels. No acute compression fracture. No lytic or 
blastic
disease. Diffuse facet arthrosis spinal stenosis L3-4 L4-5 
L5-S1.
 
IMPRESSION:
1. Metastatic disease of the liver.
2. Abnormal wall thickening of the distal esophagus and probable 
soft
tissue mass in the fundus of stomach consistent with a GI 
malignancy.
2. Abnormal portal and retroperitoneal adenopathy.
3. Abnormal high density nodule in the bladder base cystoscopy
recommended.
4. Tiny right-sided pulmonary nodules may be nonspecific.

Upper GI Endoscopy with biopsy (___) 
Irregular Z-line in the lower third of the esophagus
Mass in the lower third of the esophagus (biopsy)
Small hiatal hernia
Nodules in the middle third of the esophagus
Otherwise normal EGD to third part of the duodenum 

Esophageal Biopsy (___):
Esophageal mass: Poorly differentiated invasive adenocarcinoma 
associated with ___ esophagus

US Liver ___ procedure) (___): 
Uncomplicated 18-gauge targeted liver biopsy x 2, with specimen 
provided to the cytologist. 

Liver Biopsy (___): Pathology pending 

 
Brief Hospital Course:
___ year old man with unremarkable past medical history presents 
with 2 months of abdominal bloating, 10 days dark stool found to 
have 10cm bleeding friable esophageal mass on EGD c/f esophageal 
cancer and concern for liver metastatic disease. 

#Esophageal adenocarcinoma, new diagnosis
Presented as a transfer from ___ where CT imaging was 
notable for esophageal mass with associated adenopathy and a 
likely liver metastases as well as bladder lesion. He was 
transferred to ___ for further work up. Gastroenterology 
performed an endoscopy on ___ and biopsied a 10 cm friable 
esophageal mass with pathology confirming esophageal 
adenocarcinoma. He underwent ___ guided liver biopsy on ___, 
with pathology pending at time of discharge. There was no 
concern for active GI bleeding the hospital course as his 
hemoglobin was been stable ___. He was started on 
pantoprazole PO 40mg q12hr. Of note, patient had been taking 
pepto-bismol for abdominal bloating/pain so unclear if dark 
stool was a reflection of a medication effect or secondary to 
occult blood loss from friable mass. Mr. ___ preferred to 
establish oncologic care at ___ 
___ in clinical affiliation with ___ 
given its close location to home. Medical team was unable to 
schedule intake appointment due to snow day as hospital was 
closed. Mr. ___ was discharged with printed copies of 
imaging/reports and given CD disc with imaging obtained at 
___ team planning to call patient's PCP next 
business day (___) to help coordinate oncologic scheduling at 
___ in ___. 

#Severe malnutrition
Has lost >10% body weight (20lbs) in last 2 months 
unintentionally due to poor PO intake in the setting of 
abdominal discomfort and malignancy. Patient encouraged to drink 
ensures or other liquid protein supplement, eat small frequent 
meals. 

TRANSITIONAL ISSUES: 
====================
[] He will need to have close oncology outpatient follow up. 
Preferred to establish oncologic care at ___ 
___ in clinical affiliation with ___ 
___ given its close location to home. Hospitalist team was 
unable to schedule intake appointment due to snow day as 
hospital was closed. Mr. ___ was discharged with printed 
copies of imaging/reports and given CD disc with imaging 
obtained at ___ team to call PCP next business 
day ___ to help coordinate oncologic scheduling at ___ in 
___. 
[] Patient preferred oncology follow up: ___ 
___ in clinical affiliation with ___ 
___ 
___ Phone: ___ 
[] Final pathology results from the liver mass biopsy at ___ 
are pending and need to be followed up. 
[] Unable to burn disc of imaging obtained at ___ (ABD u/s 
and CT torso w/ IV contrast). Will need to get radiology results 
from ___. 
[] CT torso at ___ notable for high density nodule in bladder 
base; cystoscopy recommended. No issues with voiding during 
admission. 

Time spent coordinating discharge > 30 minutes
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Esophageal Adenocarcinoma 

Secondary Diagnosis 
Melena 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

What brought you to the hospital?
=================================
You came to ___, initially, because you were 
experiencing black poop and abdominal discomfort. At ___, you 
had imaging of your abdomen which was concerning for a mass in 
your esophagus and possibly in your liver and bladder.  You were 
transferred to ___ to under go more tests.

What happened while you were in this hospital?
==============================================
You received an endoscopy (a small camera went down your throat) 
to look at your esophagus and stomach. A mass was found in your 
esophagus and biopsy (samples) were taken of the tissue.  This 
showed cancer.  You also had a biopsy of your liver to evaluate 
the cause of your liver mass and if this could be due to cancer. 


What should you do when you leave the hospital?
===============================================
- Please take the pantoprazole as prescribed (twice daily).
- For your abdominal discomfort, you can go to your local 
pharmacy and try: zantac for heart burn as needed, gas-x for 
bloating as needed, and try Maalox for heartburn or belly 
discomfort. 
- Please do not take peptobismol as this will turn your poop 
black and black poop can be a sign of bleeding.
- Nutritionally, it is important to stay well hydrated, chew 
your food well and try to eat high protein foods.  If you get 
full easily or uncomfortable with eating, it may be better to 
eat small meals more frequently than eat large meals less often. 
 You can try drinking ensure, boost, or other liquid meal 
supplements.
- Please follow up with your primary care doctor as scheduled 
below. 
- Please bring your discharge paperwork to all future 
appointments.  
- We burned you a CD of the imaging you received at ___.  We 
also printed out reports of your imaging and studies.
- You mentioned you wanted to establish care at ___ in 
___ for your cancer care.  Their office: ___ Phone: ___
- We were unable to schedule an oncology appointment for you 
because the office was closed due to heavy snow.  We were unable 
to reach your primary care doctor to help coordinate this 
appointment as they were also closed.  Your hospitalist care 
team will call your primary care doctor's office tomorrow 
(___) to ensure you get help scheduling a follow up 
appointment with a cancer doctor at ___ in ___.

**Please call your primary care doctor's office or seek 
immediate medical care if you develop bloody stool, black stool, 
severe abdominal pain, vomiting, or are unable to eat. 

We wish you the best,

Your ___ Care Team

 
Followup Instructions:
___